US04374829
Benzyl 2-oxo-7-phthalimidoheptanoate (prepared by alkylation of benzyl 1,3-dithiane-2-carboxylate with 5-phthalimidopentyl bromide and subsequent oxidative conversion to the ketone with N-bromosuccinimide) is condensed with L-alanyl-L-proline in the presence of excess NaBH3CN. The condensation product, N-(1-benzyloxycarbonyl-6-phthalimidohexyl)-L-alanyl-L-proline, (390 mg.) in 25 ml of 50% aqueous ethanol is hydrogenated at 40 psi over 10% palladium on charcoal. Removal of solvent and catalyst yields N-(1-carboxy-6-phthalimidohexyl)-L-alanyl-L-proline (320 mg) having the expected spectral and chromatographic properties. A portion of the above intermediate (152 mg) in 2 ml of ethanol is refluxed with hydrazine (32 mg) for 1.5 hours. The phthalhydrazide is removed by filtration; the ethanol is removed under vacuum and the residue is absorbed on strong acid ion-exchange resin. Elution with 2% aqueous pyridine and freeze-drying gives the desired N-(1-carboxy-6-aminohexyl)-L-alanyl-L-proline (58 mg.). The spectral data are consistent with structure. The mass spectrum shows a peak at 311 for the molecular ion minus water (329-18).

reactant | Benzyl 2-oxo-7-phthalimidoheptanoate | O=C(C(=O)OCC1=CC=CC=C1)CCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H21NO5
reactant | benzyl 1,3-dithiane-2-carboxylate | S1C(SCCC1)C(=O)OCC1=CC=CC=C1 | C12H14O2S2
reactant | 5-phthalimidopentyl bromide | C1(C=2C(C(N1CCCCCBr)=O)=CC=CC2)=O | C13H14BrNO2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | L-alanyl-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | NaBH3CN | [BH3-]C#N.[Na+]
reactant | N-(1-benzyloxycarbonyl-6-phthalimidohexyl)-L-alanyl-L-proline | C(C1=CC=CC=C1)OC(=O)C(CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@@H](C)C(=O)N2[C@H](C(=O)O)CCC2 | C30H35N3O7
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | N-(1-carboxy-6-phthalimidohexyl)-L-alanyl-L-proline | 320 mg | C(=O)(O)C(CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@@H](C)C(=O)N2[C@H](C(=O)O)CCC2 | C23H29N3O7
